US05277838
A solution of 49.7 g (0.250 mol) of p-dimethylsilylbenzoyl chloride and 18.6 g (0.100 mol) of 4,4'-dihydroxybiphenyl in 40 ml of dry dioxane was boiled for 15 hours. The completeness of the reaction was checked by thin-layer chromatography. After the solvent had been stripped off in vacuo on a rotary evaporator, the crude product was recrystallized from toluene, to give 4,4'-bis-(4-dimethylsilylbenzoyloxy)biphenyl, [-4 s 146 n 184 i].

reactant | p-dimethylsilylbenzoyl chloride | 0.250 mol, 49.7 g | C[SiH](C1=CC=C(C(=O)Cl)C=C1)C | C9H11ClOSi
reactant | 4,4'-dihydroxybiphenyl | 0.100 mol, 18.6 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4,4'-bis-(4-dimethylsilylbenzoyloxy)biphenyl | C[SiH](C1=CC=C(C(=O)OC2=CC=C(C=C2)C2=CC=C(C=C2)OC(C2=CC=C(C=C2)[SiH](C)C)=O)C=C1)C | C30H30O4Si2
